US05238908
To a suspension of 12.2 g (0.22 mol) of iron powder in 100 ml of 5% aqueous acetic acid was added dropwise a solution of 10.0 g (36.5 mmol) of methyl 2,4-dinitro-5-fluorophenoxyacetate in 100 ml of EtOAc and 100 ml of glacial acetic acid. The reaction mixture was stirred at room temperature for 18 hours. The iron was removed by suction filtration through a small pad of Celite® and the filter pad was rinsed with 50 ml of EtOAc. The filtrate was transferred to a separatory funnel and the phases were separated. The aqueous layer was extracted with EtOAc (3×50 ml) and the combined organic phases were washed with sodium bicarbonate (2×50 ml), dried over Na2SO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 3.9 g (60% yield) of 6-amino-7-fluoro-2H-1,4-benzoxazin-3(4H)-one as a brown solid.

reactant | methyl 2,4-dinitro-5-fluorophenoxyacetate | 36.5 mmol, 10.0 g | [N+](=O)([O-])C1=C(OCC(=O)OC)C=C(C(=C1)[N+](=O)[O-])F | C9H7FN2O7
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.22 mol, 12.2 g | [Fe] | Fe
product | 6-amino-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 3.9 g, 60% yield | NC=1C(=CC2=C(NC(CO2)=O)C1)F | C8H7FN2O2
